** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_sasaki.sch
.subckt opamp_r2r_sasaki OUT VDD VSS VB INM INP
*.PININFO OUT:O VDD:B VSS:B VB:I INM:I INP:I
x1 net11 net12 net13 net14 VDD OUT VSS opamp_r2r_ABAMP_sasaki
x2 VDD net1 net2 net6 net11 net7 net12 net13 net8 net14 net9 net3 net4 VSS opamp_r2r_cascode
x3 VDD net5 net1 net2 net6 INM INP net9 net3 net4 net10 VSS opamp_r2r_diff_sasaki
x4 VDD net5 net6 net7 VB net8 net9 net10 VSS opamp_r2r_CS
.ends

* expanding   symbol:  opamp_r2r_ABAMP_sasaki.sym # of pins=7
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_ABAMP_sasaki.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_ABAMP_sasaki.sch
.subckt opamp_r2r_ABAMP_sasaki AB_P CAP_P CAP_N AB_N VDD OUT VSS
*.PININFO VDD:B VSS:B OUT:O AB_P:I AB_N:I CAP_P:I CAP_N:I
MMDRVP OUT AB_P VDD VDD PMOS w=7.5u l=5u m=96
MMDRVN OUT AB_N VSS VSS NMOS w=7.5u l=5u m=48
XXCP2 CAP_P OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
XXCP1 CAP_P OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
XXCN2 CAP_N OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
XXCN1 CAP_N OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
.ends


* expanding   symbol:  opamp_r2r_cascode.sym # of pins=14
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_cascode.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_cascode.sch
.subckt opamp_r2r_cascode VDD INP_N INM_N BPI AB_P BPF CAP_P CAP_N BNF AB_N BNI INM_P INP_P VSS
*.PININFO VDD:B VSS:B INP_N:I AB_P:O AB_N:O CAP_P:O CAP_N:O INM_N:I INM_P:I INP_P:I BPI:I BPF:I BNF:I BNI:I
MMCSMP1 INM_N net1 VDD VDD PMOS w=6u l=4u m=16
MMCSMP2 net1 BPI INM_N VDD PMOS w=6u l=4u m=8
MMCSMP3 net2 BPF net1 VDD PMOS w=6u l=4u m=4
MMCSPP1 INP_N net1 VDD VDD PMOS w=6u l=4u m=16
MMCSPP2 AB_P BPI INP_N VDD PMOS w=6u l=4u m=8
MMCSPP3 AB_N BPF AB_P VDD PMOS w=6u l=4u m=4
MMCSMN2 net2 BNI INM_P VSS NMOS w=6u l=4u m=4
MMCSMN1 INM_P net2 VSS VSS NMOS w=6u l=4u m=8
MMCSMN3 net1 BNF net2 VSS NMOS w=6u l=4u m=2
MMCSPN3 AB_P BNF AB_N VSS NMOS w=6u l=4u m=2
MMCSPN2 AB_N BNI INP_P VSS NMOS w=6u l=4u m=4
MMCSPN1 INP_P net2 VSS VSS NMOS w=6u l=4u m=8
MMSBPN2 net4 net4 net3 VSS NMOS w=6u l=4u m=2
MMSBPN1 net3 net3 VSS VSS NMOS w=6u l=4u m=2
MMSBPP1 net4 AB_P VDD VDD PMOS w=6u l=4u m=4
MMSBNP1 net5 net5 VDD VDD PMOS w=6u l=4u m=4
MMSBNP2 net6 net6 net5 VDD PMOS w=6u l=4u m=4
MMSBNN1 net6 AB_N VSS VSS NMOS w=6u l=4u m=2
MMSBNP3 CAP_P net6 INP_N VDD PMOS w=6u l=4u m=16
MMSBPN3 CAP_N net4 INP_P VSS NMOS w=6u l=4u m=8
MMSBPDMYN INP_P VSS VSS VSS NMOS w=6u l=4u m=2
MMSBNDMYP INP_N VDD VDD VDD PMOS w=6u l=4u m=4
MMCSMDMYP net2 VDD net1 VDD PMOS w=6u l=4u m=4
MMCSPDMYP AB_N VDD AB_P VDD PMOS w=6u l=4u m=4
MMCSMDMYN net1 VSS net2 VSS NMOS w=6u l=4u m=2
MMCSPDMYN AB_P VSS AB_N VSS NMOS w=6u l=4u m=2
.ends


* expanding   symbol:  opamp_r2r_diff_sasaki.sym # of pins=12
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_diff_sasaki.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_diff_sasaki.sch
.subckt opamp_r2r_diff_sasaki VDD BPO INP_N INM_N BPI INM INP BNI INM_P INP_P BNO VSS
*.PININFO VDD:B VSS:B INP:I INM:I INP_N:O INM_N:O INM_P:O INP_P:O BPO:I BPI:I BNI:I BNO:I
MMINPP1 net1 BPO VDD VDD PMOS w=7.5u l=5u m=8
MMINPP2 net2 BPI net1 VDD PMOS w=7.5u l=5u m=8
MMINPP3 INP_P INP net2 VDD PMOS w=7.5u l=5u m=8
MMINMP1 net3 BPO VDD VDD PMOS w=7.5u l=5u m=8
MMINMP2 net2 BPI net3 VDD PMOS w=7.5u l=5u m=8
MMINMP3 INM_P INM net2 VDD PMOS w=7.5u l=5u m=8
MMINPN2 net4 BNI net5 VSS NMOS w=7.5u l=5u m=4
MMINPN1 net5 BNO VSS VSS NMOS w=7.5u l=5u m=4
MMINPN3 INP_N INP net4 VSS NMOS w=7.5u l=5u m=4
MMINMN2 net4 BNI net6 VSS NMOS w=7.5u l=5u m=4
MMINMN1 net6 BNO VSS VSS NMOS w=7.5u l=5u m=4
MMINMN3 INM_N INM net4 VSS NMOS w=7.5u l=5u m=4
.ends


* expanding   symbol:  opamp_r2r_CS.sym # of pins=9
** sym_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_CS.sym
** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_CS.sch
.subckt opamp_r2r_CS VDD BPO BPI BPF VB BNF BNI BNO VSS
*.PININFO VDD:B VSS:B VB:I BPO:O BPI:O BPF:O BNF:O BNI:O BNO:O
MMB4P1 net1 BPO VDD VDD PMOS w=6u l=4u m=4
MMB4P2 BPO BPI net1 VDD PMOS w=6u l=4u m=4
MMB3P1 net2 BPI VDD VDD PMOS w=6u l=4u m=2
MMB3P2 net3 BPI net2 VDD PMOS w=6u l=4u m=2
MMB3P3 BPI BPI net3 VDD PMOS w=6u l=4u m=2
MMB4N2 BPO BNI net4 VSS NMOS w=6u l=4u m=2
MMB3N2 BPI BNI net5 VSS NMOS w=6u l=4u m=2
MMB4N1 net4 BNO VSS VSS NMOS w=6u l=4u m=2
MMB3N1 net5 BNO VSS VSS NMOS w=6u l=4u m=2
MMB1N2 BNO BNI net7 VSS NMOS w=6u l=4u m=2
MMB2N2 net6 BNI net8 VSS NMOS w=6u l=4u
MMB1N1 net7 BNO VSS VSS NMOS w=6u l=4u m=2
MMB2N1 net8 BNI VSS VSS NMOS w=6u l=4u
MMB2N3 BNI BNI net6 VSS NMOS w=6u l=4u
MMB5P1 net9 BPO VDD VDD PMOS w=6u l=4u m=4
MMB5P2 BNF BPI net9 VDD PMOS w=6u l=4u m=4
MMB5N2 net10 BNI net11 VSS NMOS w=6u l=4u m=2
MMB5N1 net11 net10 VSS VSS NMOS w=6u l=4u m=2
MMB5N3 BNF BNF net10 VSS NMOS w=6u l=4u m=2
MMB6P1 net12 net14 VDD VDD PMOS w=6u l=4u m=4
MMB6P2 net14 BPI net12 VDD PMOS w=6u l=4u m=4
MMB6N2 BPF BNI net13 VSS NMOS w=6u l=4u m=2
MMB6N1 net13 BNO VSS VSS NMOS w=6u l=4u m=2
MMB6P3 BPF BPF net14 VDD PMOS w=6u l=4u m=4
MMB2DMYN BNI VSS VSS VSS NMOS w=6u l=4u
MMPVB1 BNI VB VDD VDD PMOS w=6u l=4u m=2
MMPVB2 BNO VB VDD VDD PMOS w=6u l=4u m=2
MMDMYP4 BPI VDD VDD VDD PMOS w=6u l=4u m=2
.ends

